* EML Stage-B: NPN mismatch Monte Carlo (tt_mm = mismatch-only section)
* Fixed VBE in the clean-exp region; spread of ln(IC) across samples
* = the exp-argument offset sigma (in V_T units) for AnalogConfig.
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt_mm

XQ1 c b 0 0 sky130_fd_pr__npn_05v5_W1p00L1p00
VC  c 0 1.5
VB  b 0 0.60

.control
set filetype=ascii
let runs = 200
let idx = 0
echo > npn_mc_ic.txt
dowhile idx < runs
  reset
  op
  echo $&i(VC) >> npn_mc_ic.txt
  let idx = idx + 1
end
echo MC_DONE
.endc
.end
