* OTA2B SHRINK: XMS is 48% of the block's gate area (W48 L8 = 384 um2)
* and, unlike the tail, it is NOT a harmless current source -- it is the
* PMOS load of the second stage, so its ro sets stage-2 gain directly:
*     A2 = gm(XMN3) * ( ro(XMN3) || ro(XMS) )
* XMN3 is already L=1, so ro(XMN3) may well dominate the parallel pair, in
* which case shrinking XMS costs nothing.  That is the hypothesis; this
* deck tests it instead of assuming either way.
*
* Candidates at constant W/L = 6 (constant current):
*   XMS W48 L8 (baseline)   W24 L4   W12 L2
* Tail shrunk to W8 L2 throughout -- ota_shrink_mc/dc showed that costs
* nothing (offset 0.97x, follower error identical to 3 digits).
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.param ws=48 ls=8

.subckt ota2p inp inn out vdd pbias ws=48 ls=8
XMT ntail pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=8 L=2
XMP1 n1  inp ntail vdd sky130_fd_pr__pfet_g5v0d10v5 W=32 L=2
XMP2 no1 inn ntail vdd sky130_fd_pr__pfet_g5v0d10v5 W=32 L=2
XMN1 n1  n1 0 0 sky130_fd_pr__nfet_g5v0d10v5 W=4 L=2
XMN2 no1 n1 0 0 sky130_fd_pr__nfet_g5v0d10v5 W=4 L=2
XMN3 out no1 0 0 sky130_fd_pr__nfet_g5v0d10v5 W=16 L=1
XMS out pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W='ws' L='ls'
.ends

VDD vdd 0 3.3
IB  pb 0 2u
XPB pb pb vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=16 L=8

* Follower.  ota2b's INVERTING input is `inp` (inp -> n1 -> no1 -> XMN3
* -> out gives one net inversion), so feedback closes on inp and the
* signal drives inn -- which is exactly how raildrv instantiates it
* (XBUF1 vrefb nd12 vrefb ...).  Wiring it the other way is POSITIVE
* feedback: the first run of this deck railed the baseline at +2.1 V and
* would have "proved" that the small XMS is better than the big one.
VIN inp 0 1.2
XO out inp out vdd pb ota2p ws='ws' ls='ls'

.control
set filetype=ascii
alterparam ws = 48
alterparam ls = 8
reset
dc VIN 0.6 2.0 0.05
wrdata ota2b_dc_0.csv v(out)

alterparam ws = 24
alterparam ls = 4
reset
dc VIN 0.6 2.0 0.05
wrdata ota2b_dc_1.csv v(out)

alterparam ws = 12
alterparam ls = 2
reset
dc VIN 0.6 2.0 0.05
wrdata ota2b_dc_2.csv v(out)
echo OTA2B_DONE
.endc
.end
