* OTA SHRINK part 2: the risk that actually matters -- OUTPUT RESISTANCE.
*
* Offset is insensitive to tail size (ota_shrink_mc.spice: 16x smaller
* tail moves sigma by 1.0x, because tail mismatch is common to both legs).
* What a short tail DOES cost is ro, and therefore:
*   - tail current droop with common-mode input  -> NONLINEARITY, which
*     the two-point readout calibration does NOT absorb
*   - follower gain error across the input range
*
* Swept nominally (tt) over the range the chain actually uses: the cell
* v-input sits at 1.17-1.25 V and the log-amp node at 0.78 V
* (toplevel/chain_full.csv), so 0.6-2.0 V covers it with margin.
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.param wt=32 lt=8

.subckt ota1p inp inn out vdd pbias wt=32 lt=8
XMT ntail pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W='wt' L='lt'
XMP1 n1  inp ntail vdd sky130_fd_pr__pfet_g5v0d10v5 W=32 L=2
XMP2 out inn ntail vdd sky130_fd_pr__pfet_g5v0d10v5 W=32 L=2
XMN1 n1  n1 0 0 sky130_fd_pr__nfet_g5v0d10v5 W=4 L=2
XMN2 out n1 0 0 sky130_fd_pr__nfet_g5v0d10v5 W=4 L=2
.ends

VDD vdd 0 3.3
IB  pb 0 2u
XPB pb pb vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=16 L=8

VIN inp 0 1.2
XO inp out out vdd pb ota1p wt='wt' lt='lt'

* tail current read through a 0 V sense source in the tail leg
.control
set filetype=ascii
echo > ota_shrink_dc.txt
alterparam wt = 32
alterparam lt = 8
reset
dc VIN 0.6 2.0 0.05
wrdata ota_dc_0.csv v(out) v(XO.ntail)

alterparam wt = 16
alterparam lt = 4
reset
dc VIN 0.6 2.0 0.05
wrdata ota_dc_1.csv v(out) v(XO.ntail)

alterparam wt = 8
alterparam lt = 2
reset
dc VIN 0.6 2.0 0.05
wrdata ota_dc_2.csv v(out) v(XO.ntail)
echo OTA_DC_DONE
.endc
.end
